US08283354B2
(R)-Tetrahydro-furan-2-carboxylic acid {1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperidin-4-yl}-amide (303 mg, 0.701 mmol) was dissolved in 9 mL 2:1 dry ether/dry CH2Cl2 and 2.0 M HCl in ether added dropwise (0.35 mL, 0.70 mmol), producing a white precipitate which was collected by filtration to give (R)-Tetrahydro-furan-2-carboxylic acid {1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperidin-4-yl}-amide hydrochloride (268 mg, 82%). LC/MS: m/z 433.5 (M+H)+ at 2.26 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.20 (dd, J=7.8, 1.2 Hz, 1H), 8.00 (d, J=8.6 Hz, 1H), 7.80-7.79 (m, 2H), 7.51-7.47 (m, 2H), 7.15 (d, J=8.2 Hz, 1H), 7.05-7.01 (m, 1H), 4.66-4.63 (m, 2H), 4.21 (dd, J=8.2, 5.2 Hz, 1H), 4.12-4.03 (m, 1H), 3.91-3.84 (m, 1H), 3.78-3.70 (m, 1H), 3.59 (t, J=12.3 Hz, 2H), 2.54 (s, 3H), 2.16-2.05 (m, 1H), 1.97-1.94 (m, 2H), 1.89-1.72 (m, 5H).

reactant | (R)-Tetrahydro-furan-2-carboxylic acid {1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperidin-4-yl}-amide | 0.701 mmol, 303 mg | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1CCC(CC1)NC(=O)[C@@H]1OCCC1)C | C25H28N4O3
reactant | HCl | 2.0 M | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (R)-Tetrahydro-furan-2-carboxylic acid {1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperidin-4-yl}-amide hydrochloride | 268 mg, 82% | Cl.OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1CCC(CC1)NC(=O)[C@@H]1OCCC1)C | InChI=1S/C25H28N4O3.ClH/c1-16-8-9-18-20(15-16)27-23(19-5-2-3-6-21(19)30)28-24(18)29-12-10-17(11-13-29)26-25(31)22-7-4-14-32-22;/h2-3,5-6,8-9,15,17,22,30H,4,7,10-14H2,1H3,(H,26,31);1H/t22-;/m1./s1
